US07018995B2
Synthesis of Budesonide Decylcarbonate. (Example 8)
To the solution of budesonide (431 mg, 1.0 mmol) in DCM (4.5 mL) was added decyl chloroformate (460 μL, 2.0 mmol) and Et3N (512 μL, 3.7 mmol) at room temperature. After the reaction mixture was stirred at room temperature over night, it was poured into water (20 mL) and DCM (10 mL); the aqueous phase was extracted with DCM (10 mL). The combined organic phases were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo to provide crude budesonide decylcarbonate. The product was purified by chromatography, eluted with Hexane: AcOEt=9:1 to 3:1 to provide 348 mg of 1:1 mixture of epimers (originated from budesonide) (99.22 area % purity on HPLC). 1H NMR (CDCl3) δ 0.85-2.24 (m, 42H), 2.36 (dd, 1H, 13.4 and 2.9 Hz), 2.59 (dt, 1H, 13.5 and 4.5 Hz), 4.18 (t, 1H, 6.7 Hz), 4.51 (s, 1H), 4.6-5.2 (m, 5H), 6.03 (s, 1H), 6.30 (d, 1H, 10.1 Hz), 7.49 (d, 1H, 10.1 Hz). 13C NMR (CDCl3) δ 14.14, 14.17, 14.31, 17.06, 17.24, 17.36, 17.68, 21.19, 22.83, 25.78, 28.76, 29.37, 29.40, 29.66, 30.52, 31.16, 32.04, 33.05, 33.56, 34.22, 35.16, 37.25, 40.58, 40.89, 44.38, 46.06, 47.49, 49.98, 53.05, 55.38, 55.48, 68.90, 68.94, 69.65, 69.75, 69.92, 70.01, 82.05, 83.34, 97.69, 98.56, 104.65, 108.47, 122.51, 127.84, 155.04, 156.96, 170.61, 170.71, 186.84, 186.89, 202.08 and 203.37. Mass spectrum (m/e) 615 (M+).

reactant | budesonide | 1.0 mmol, 431 mg | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C25H34O6
reactant | decyl chloroformate | 2.0 mmol, 460 μL | ClC(=O)OCCCCCCCCCC | C11H21ClO2
reactant | Et3N | 3.7 mmol, 512 μL | CCN(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | DCM | 4.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Budesonide Decylcarbonate | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C.C(CCCCCCCCC)OC([O-])=O | InChI=1S/C25H34O6.C11H22O3/c1-4-5-21-30-20-11-17-16-7-6-14-10-15(27)8-9-23(14,2)22(16)18(28)12-24(17,3)25(20,31-21)19(29)13-26;1-2-3-4-5-6-7-8-9-10-14-11(12)13/h8-10,16-18,20-22,26,28H,4-7,11-13H2,1-3H3;2-10H2,1H3,(H,12,13)/p-1/t16-,17-,18-,20+,21?,22+,23-,24-,25+;/m0./s1
